US06503902B2
Synthesis of 2-aminophenyl cyclopentylmethanone:
To a solution of anthranilonitrile (15.0 g) in diethyl ether (600 mL) was added a solution of 2.0 M cyclopentylmagnesium bromide in diethyl ether (159 mL) at 0° C. under nitrogen. The mixture was stirred at room temperature overnight (20 hours). 500 ml of 5 N HCl in H2O was added very slowly at 0° C. The mixture was stirred at room temperature for 1 hour. The aqueous layer was neutralized with 50% NaOH/H2O to pH=12. 2×500 mL of ethyl acetate was used to extract the aqueous layer. The combined organic layers were dried over Na2SO4. The solvent was removed to give the crude product 22.5 g (93.6% yield). H1NMR(CDCl3): δ 6.62-7.82 (m, 4H), 3.64-3.78 (m, 1H), 1.50-1.96 (m, 8H).

reactant | anthranilonitrile | 15.0 g | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | cyclopentylmagnesium bromide | 2.0 M | C1(CCCC1)[Mg]Br
reactant | HCl | 5 N, 500 ml | Cl | ClH
reactant | NaOH H2O | [OH-].[Na+].O
solvent | diethyl ether | 600 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 159 mL | C(C)OCC | C4H10O
solvent | H2O | O | H2O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 2-aminophenyl cyclopentylmethanone | 22.5 g, 93.6% yield | NC1=C(C=CC=C1)C(=O)C1CCCC1 | C12H15NO
